US04136248
5-Octyl-2-Norbornene/1-Hexene Copolymer
50 ml dry toluene cosolvent, 7 ml 5-octyl-2-norbornene (containing about 15 wt.% dicyclopentadiene trimer impurity), 8 ml 1-hexene solution, and 0.6 ml diethylaluminum iodide solution were charged to a dry nitrogen-purged 7 oz. bottle. 0.75 ml of the MoCl5 solution was charged last. After about 1 hour the reaction was shortstopped using a mixture of ethanolamine, Solution A and 2 ml of an antioxidant solution (0.1 g/ml of 2,2'-methylenebis[4-methyl-6-t-butylphenol] in toluene). The polymer cement was coagulated using excess Solution A in a Waring blender. The solid recovered after being filtered and vacuum dried at 60° C. was found to be a terpolymer of octylnorbornene, dicyclopentadiene trimer and 1-hexene. Tg was measured and the value adjusted to compensate for the trimer impurity.

reactant | 5-octyl-2-norbornene | 7 ml | C(CCCCCCC)C1C2C=CC(C1)C2 | C15H26
reactant | 1-hexene | 8 ml | C=CCCCC | C6H12
reactant | diethylaluminum iodide | 0.6 ml | [I-].C(C)[Al+]CC
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Octyl-2-Norbornene 1-Hexene | C(CCCCCCC)C1C2C=CC(C1)C2.C=CCCCC | InChI=1S/C15H26.C6H12/c1-2-3-4-5-6-7-8-14-11-13-9-10-15(14)12-13;1-3-5-6-4-2/h9-10,13-15H,2-8,11-12H2,1H3;3H,1,4-6H2,2H3
